US06770643B2
3-Cyano-1H-indazole
A solution of o-aminobenzyl cyanide (0.5 g) in aqueous hydrochloric acid 1N (9.6 mL), was treated with a solution of aqueous sodium nitrite 1N (3.85 mL). After stirring at room temperature for 15 minutes, the reaction mixture was filtered. The solid was recrystallised from ethanol to give the title compound (0.4 g) as a yellow solid, m.p. 138-140° C. 1H NMR [(CD3)2SO]: δ 7.89 (d, 1H, J=7.7Hz); 7.76 (d, 1H, J=7.9Hz); 7.48 (t, 1H) ; 7.41 (t, 1H).

reactant | o-aminobenzyl cyanide | 0.5 g | NC1=C(CC#N)C=CC=C1 | C8H8N2
reactant | sodium nitrite | 1N, 3.85 mL | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 1N, 9.6 mL | Cl | ClH
product | 3-Cyano-1H-indazole | 0.4 g | C(#N)C1=NNC2=CC=CC=C12 | C8H5N3
